US05110966
Step a: 4,4-Dimethyl-l-trimethylsilyl-l-pentyn-3-ol
Dissolve B-(2-(trimethylsilyl)ethynyl)-9-borabicyclo[3.3.1]nonane.tetrahydrofuran complex (2.13 g, 7.3 mmol) in pentane (25 mL) and add trimethylacetaldehyde (795 μL, 7.3 mmol). Stir at room temperature for 5 days. Remove the solvent under a positive nitrogen pressure to give a yellow solid. Add ethyl ether (30 mL) and methanol (500 μL). Cool to 0° C. and add, by dropwise addition, ethanolamine (440 μL, 7.3 mmol). Stir overnight, centrifuge the reaction mixture and separate the clear supernatant liquid. Wash the precipitate with pentane (2×10 mL) and combine the organic phases. Wash with water (2×25 mL) and dry (MgSO4). Evaporate the solvent in vacuo and purify by silica gel chromatography (19:1 hexane/ethyl acetate) to give the title compound as a clear liquid (1.25 g, 93%).

reactant | B-(2-(trimethylsilyl)ethynyl)-9-borabicyclo[3.3.1]nonane | C[Si](C#CB1C2CCCC1CCC2)(C)C | C13H23BSi
reactant | trimethylacetaldehyde | 7.3 mmol, 795 μL | CC(C=O)(C)C | C5H10O
reactant | ethyl ether | 30 mL | C(C)OCC | C4H10O
reactant | ethanolamine | 7.3 mmol, 440 μL | C(O)CN | C2H7NO
solvent | pentane | 25 mL | CCCCC | C5H12
solvent | methanol | 500 μL | CO | CH4O
product | 4,4-Dimethyl-l-trimethylsilyl-l-pentyn-3-ol | 1.25 g, 93% | CC(C(C#C[Si](C)(C)C)O)(C)C | C10H20OSi
